US08168635B2
Ethyl-3-(5′-fluoro-2′-methoxyphenyl)acrylate:
To a solution of 5-fluoro-2-methoxybenzaldehyde (4.3 g, 28 mmol) in dry CH2Cl2 (40 mL) at 0° C. was added carbethoxymethylenetriphenylphosphorane (10.7 g, 30 mmol) portionwise and the reaction was warmed to room temperature for 12 h. The solvent was then removed in vacuo and the residue was purified by flash column chromatography (8% EtOAc in Hexane, Rf=0.20) to yield the product (4 g, 95%) as an oil.

reactant | 5-fluoro-2-methoxybenzaldehyde | 28 mmol, 4.3 g | FC=1C=CC(=C(C=O)C1)OC | C8H7FO2
reactant | carbethoxymethylenetriphenylphosphorane | 30 mmol, 10.7 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | Ethyl-3-(5′-fluoro-2′-methoxyphenyl)acrylate | 4 g, 95% | C(C)OC(C=CC1=C(C=CC(=C1)F)OC)=O | C12H13FO3
